US09303023B2
To a solution of 4-nitro-1H-pyrazole (1.50 g, 13.27 mmol) in MeCN (30 mL), 2-bromo-1,1-dimethoxyethane (2.34 mL, 19.90 mmol) and Cs2CO3 (6.48 g, 19.90 mmol) was added. The resulting mixture was refluxed (85° C.) for 20 h, then the reaction mixture was allowed to reach rt. The mixture was diluted with DCM, filtered, the filter cake was washed with DCM and the filtrate was concentrated in vacuo. The residue was partitioned between water and DCM, then the aq. layer was extracted with DCM (2×) and the comb. org. layers were dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield 1-(2,2-dimethoxyethyl)-4-nitro-1H-pyrazole as a yellow oil which was used in the next step without further purification. LC-MS conditions B: tR=0.50 min, [M+H]+=no ionization.

reactant | 4-nitro-1H-pyrazole | 13.27 mmol, 1.50 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 2-bromo-1,1-dimethoxyethane | 19.90 mmol, 2.34 mL | BrCC(OC)OC | C4H9BrO2
reactant | Cs2CO3 | 19.90 mmol, 6.48 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 30 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(2,2-dimethoxyethyl)-4-nitro-1H-pyrazole | COC(CN1N=CC(=C1)[N+](=O)[O-])OC | C7H11N3O4
